US04012397
EXAMPLE 2 2-(o-chlorobenzoyl)-3-amino-6-chloropyridine
43 grams of 2-benzoyl-3-amino-6-chloropyridine were dissolved in 100 ml of dioxane, then 16 ml of pyridine and finally with stirring 18 ml of propionyl chloride were added. The mixture was stirred for 2 hours, then water was added until crystallization began. The material which precipitated was recrystallized from methanol/water. Yield 48 grams; M.P. 40° C.

reactant | 2-benzoyl-3-amino-6-chloropyridine | 43 grams | C(C1=CC=CC=C1)(=O)C1=NC(=CC=C1N)Cl | C12H9ClN2O
reactant | pyridine | 16 ml | N1=CC=CC=C1 | C5H5N
reactant | propionyl chloride | 18 ml | C(CC)(=O)Cl | C3H5ClO
reactant | water | O | H2O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 2-(o-chlorobenzoyl)-3-amino-6-chloropyridine | ClC1=C(C(=O)C2=NC(=CC=C2N)Cl)C=CC=C1 | C12H8Cl2N2O
